US05457105
Using an analogous procedure to that described in Example 1, 4-chloro-6-morpholinoquinazoline was reacted with 3-methylaniline to give 4-(3'-methylanilino)-6-morpholinoquinazoline hydrochloride in 76% yield, m.p. 276°-278° C. NMR Spectrum: (CD3SOCD3) 2.38 (s, 3H), 3.41 (m, 4H), 3.82 (m, 4H), 7.18 (d, 1H), 7.38 (m, 1H), 7.48 (s, 1H), 7.50 (d, 1H), 7.87 (s, 2H), 8.08 (s, 1H), 8.75 (s, 1H); Elemental Analysis: Found C, 63.9; H, 6.0; N, 15.4; C19H20N4O 1HCl requires C, 64.1; H, 5.9; N, 15.8%.

reactant | 4-chloro-6-morpholinoquinazoline | ClC1=NC=NC2=CC=C(C=C12)N1CCOCC1 | C12H12ClN3O
reactant | 3-methylaniline | CC=1C=C(N)C=CC1 | C7H9N
product | 4-(3'-methylanilino)-6-morpholinoquinazoline hydrochloride | 76% yield | Cl.CC=1C=C(NC2=NC=NC3=CC=C(C=C23)N2CCOCC2)C=CC1 | InChI=1S/C19H20N4O.ClH/c1-14-3-2-4-15(11-14)22-19-17-12-16(23-7-9-24-10-8-23)5-6-18(17)20-13-21-19;/h2-6,11-13H,7-10H2,1H3,(H,20,21,22);1H
